US04283405
4-(Di-3-thienyl-methyl)-N-methyl-piperidine
9.5 grams (0.03 mole) of 4-(di-3-thienyl-methylene)-N-methyl-piperidine hydrochloride were dissolved in 270 ml of methanol and hydrogenated in the presence of 9.5 grams of PdBaSO4 (9.25% Pd) at 65° C. and 5 bar. The purification was carried out by dry column chromatography on silica gel (elution agent: chloroform/methanol=95%/5% by volume) and recrystallization from chloroform/petroleum ether. M.P. of the hydrochloride 251°-253° C.; Yield: 11%.

reactant | 4-(di-3-thienyl-methylene)-N-methyl-piperidine hydrochloride | 0.03 mole, 9.5 grams | Cl.S1C=C(C=C1)C(=C1CCN(CC1)C)C1=CSC=C1
solvent | methanol | 270 ml | CO | CH4O
product | 4-(Di-3-thienyl-methyl)-N-methyl-piperidine | Yield: 11% | S1C=C(C=C1)C(C1CCN(CC1)C)C1=CSC=C1 | C15H19NS2
